US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide
As described for example 5d, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (537 mg, 1.5 mmol) was converted, using 2-amino-2-methyl-1-propanol instead of isopropylamine, to the title compound (155 mg, 29%) which was obtained as a white solid after purification by chromatography (silica, 0 to 60% ethyl acetate in heptane). MS: m/e=362.4 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.5 mmol, 537 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide | 155 mg, 29% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC(CO)(C)C)C=C1)C | C19H27N3O4
